US08629137B2
1-[1-(6-benzoyl-pyrimidin-4-yl)-piperidin-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one
0.20 g (0.67 mmol) 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one, 0.15 g (0.33 mmol) (6-chloro-pyrimidin-4-yl)-phenyl-methanone and 0.20 mL (1.1 mmol) DIPEA in 3 mL DMF were heated to 80° C. for 1 h. Then the reaction mixture was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 1-piperidin-4-yl-1,3-dihydroimidazo[4,5-b]pyridin-2-one | 0.67 mmol, 0.20 g | N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C11H14N4O
reactant | (6-chloro-pyrimidin-4-yl)-phenyl-methanone | 0.33 mmol, 0.15 g | ClC1=CC(=NC=N1)C(=O)C1=CC=CC=C1 | C11H7ClN2O
reactant | DIPEA | 1.1 mmol, 0.20 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 1-[1-(6-benzoyl-pyrimidin-4-yl)-piperidin-4-yl]-1,3-dihydro-imidazo[4,5-b]pyridin-2-one | C(C1=CC=CC=C1)(=O)C1=CC(=NC=N1)N1CCC(CC1)N1C(NC2=NC=CC=C21)=O | C22H20N6O2
